US05045541
To 60 ml of dried dimethylformamide is added 5 g of 9-hydroxy-2-(4-hydroxyphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one, and thereto is added 1.6 g of 60% sodium hydroxide. After the mixture is stirred at room temperature for 1 hour, 5 g of 3-dimethylaminopropyl chloride is added thereto. The mixture is stirred under heating at 60°-70° C. for 14 hours. After the completion of the reaction, the solvent is distilled off and the residue is extracted with chloroform. The extract is washed with water and dried over anhydrous magnesium sulfate. Thereafter, the solvent is distilled off. The obtained oily substance (7.8 g) is subjected to column chromatography to give 5.2 g of 2-[4-(3-dimethylaminopropoxy)phenyl]-9-(3-dimethylaminopropoxy)-4,4a,5,6-tetrahydrobenzoh]cinnolin-3(2H)-one as an oily substance.

reactant | 9-hydroxy-2-(4-hydroxyphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 5 g | OC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)O)=O)C=C1 | C18H16N2O3
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 5 g | CN(CCCCl)C | C5H12ClN
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | cinnolin-3(2H)-one | N=1NC(C=C2C=CC=CC12)=O | C8H6N2O
